US06114358
b) 5-Chloromethylisoxazole-3-carboxylic acid
47.3 g (250 mmol) of ethyl 5-chloromethylisoxazole-3-carboxylate in 150 ml of ethanol were mixed with 14 g (250 mmol) of potassium hydroxide, and the mixture was stirred at 60-70° C. for 6 h. After cooling and concentration under reduced pressure, the residue was taken up in water and extracted with ether, the aqueous phase was acidified with hydrochloric acid and then extracted several times with ether, and the ether phase was dried over sodium sulfate and concentrated under reduced pressure (oil pump, 50° C.). 31 g of the required product were obtained (77% of theory).

reactant | ethyl 5-chloromethylisoxazole-3-carboxylate | 250 mmol, 47.3 g | ClCC1=CC(=NO1)C(=O)OCC | C7H8ClNO3
reactant | potassium hydroxide | 250 mmol, 14 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-Chloromethylisoxazole-3-carboxylic acid | 31 g | ClCC1=CC(=NO1)C(=O)O | C5H4ClNO3
